US09145380B2
a) 3-(3-Bromo-benzenesulfonylamino)-thiophene-2-sulfonic acid amide
A mixture of 3-amino-thiophene-2-sulfonic acid amide (100 mg, 0.56 mmol) and 3-bromo-benzenesulfonyl chloride (97 μL, 0.67 mmol) in anhydrous pyridine (3 mL) was stirred at room temperature for 17 hours. The solvent was removed in vacuo and the residue was taken up in dichloromethane (25 mL). The organic phase was washed with 1 M hydrochloric acid, saturated sodium bicarbonate and brine, dried over sodium sulfate and concentrated under reduced pressure. Purification by column chromatography, using 4-6% methanol in dichloromethane as the eluent, gave 147.6 mg (66% yield) of the title compound.

reactant | 3-amino-thiophene-2-sulfonic acid amide | 0.56 mmol, 100 mg | NC1=C(SC=C1)S(=O)(=O)N | C4H6N2O2S2
reactant | 3-bromo-benzenesulfonyl chloride | 0.67 mmol, 97 μL | BrC=1C=C(C=CC1)S(=O)(=O)Cl | C6H4BrClO2S
solvent | pyridine | 3 mL | N1=CC=CC=C1 | C5H5N
product | 3-(3-Bromo-benzenesulfonylamino)-thiophene-2-sulfonic acid amide | 147.6 mg, 66% yield | BrC=1C=C(C=CC1)S(=O)(=O)NC1=C(SC=C1)S(=O)(=O)N | C10H9BrN2O4S3
